simulator lang=spectre
global 0

ahdl_include "./dut/adc_zoom_timing_sequencer.va"

XDUT (rst s sar res intg clk_sar zoom clk_zoom rst_zoom) adc_zoom_timing_sequencer
Iground_ref (rst 0) isource dc=0

simulatorOptions options evas_profile=balanced

tran tran stop=45n maxstep=20p
save rst s sar res intg clk_sar zoom clk_zoom rst_zoom
